US04044140
N,N-Diethyl-5-(Triphenylmethyl)-Picolinamide
Heat at reflux for 6 hours a mixture of 0.1 mole of cyanomethyl-5-(triphenylmethyl)-picolinate and 0.5 moles of diethylamine. Cool the reaction mixture, pour into water and extract with chloroform. Dry the chloroform layer over anhydrous sodium sulfate and evaporate to obtain thereby the product of this example.

reactant | cyanomethyl-5-(triphenylmethyl)-picolinate | 0.1 mole | C(#N)COC(C1=NC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O | C27H20N2O2
reactant | diethylamine | 0.5 moles | C(C)NCC | C4H11N
solvent | water | O | H2O
product | N,N-Diethyl-5-(Triphenylmethyl)-Picolinamide | C(C)N(C(C1=NC=C(C=C1)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1)=O)CC | C29H28N2O
